US09238639B2
Methyl(6-((2,4-dichlorobenzyl)oxy)-4-methyl-1-benzothiophen-3-yl)acetate
To a mixture of methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate (174 mg) and DMF (dry) (2 mL) were added K2CO3 (112 mg) and 2,4-dichlorobenzyl chloride (0.113 mL) at room temperature. After stirring at room temperature for 5 h, the mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (233 mg).

reactant | methyl(6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate | 174 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C)=O | C12H12O3S
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 112 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dichlorobenzyl chloride | 0.113 mL | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | water | O | H2O
product | Methyl(6-((2,4-dichlorobenzyl)oxy)-4-methyl-1-benzothiophen-3-yl)acetate | 233 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C)=O | C19H16Cl2O3S
